US05217952
To a solution of O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-hydroxytyrosine methyl ester (erythro isomer) (3.85 g) in dichloromethane (30 ml) were added triethylamine (1.38 g), 4-dimethylaminopyridine (0.45 g) and benzoyl chloride (1.92 g). After stirring for 16 hours at room temperature, 3-dimethylaminopropylamine (3.3 g) was added to the mixture and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (30 ml) and washed with dil. hydrochloric acid, sodium bicarbonate aqueous solution and water. After evaporating, the residue was put on a column of silica gel (MERCK 7734, 150 g) and eluted with n-hexane-ethyl acetate (5:2, V/V) to give O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-benzoyloxytyrosine methyl ester (erythro isomer) (4.49 g).

reactant | O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-hydroxytyrosine methyl ester | 3.85 g | COC([C@@H](N(SC1=C(C=CC=C1)[N+](=O)[O-])C)C(C1=CC=C(C=C1)OCOC)O)=O | C19H22N2O7S
reactant | triethylamine | 1.38 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.92 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-dimethylaminopropylamine | 3.3 g | CN(CCCN)C | C5H14N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.45 g | CN(C1=CC=NC=C1)C | C7H10N2
product | O-methoxymethyl-N-methyl-N-(2-nitrophenylthio)-β-benzoyloxytyrosine methyl ester | 4.49 g | COC([C@@H](N(SC1=C(C=CC=C1)[N+](=O)[O-])C)C(C1=CC=C(C=C1)OCOC)OC(C1=CC=CC=C1)=O)=O | C26H26N2O8S
